US07939666B2
Stage 4: (S)-[3-(3-Amino-benzyl)-ureido]-phenyl-acetic acid cyclopentyl ester
(S)-[3-(3-Nitro-benzyl)-ureido]-phenyl-acetic acid cyclopentyl ester (3.6 g, 9.0 mmol) was dissolved in ethanol (50 ml) Pd/C (10% wet) catalyst (100 mg) was added and the mixture was stirred under H2 atmosphere (balloon pressure) for 18 h. The reaction mixture was filtered through a celite plug and evaporated to dryness to give a purple oil (2.34 g, 71% yield). LCMS purity 90%, m/z 368 [M++H]+.

reactant | (S)-[3-(3-Nitro-benzyl)-ureido]-phenyl-acetic acid cyclopentyl ester | 9.0 mmol, 3.6 g | C1(CCCC1)OC([C@H](C1=CC=CC=C1)NC(=O)NCC1=CC(=CC=C1)[N+](=O)[O-])=O | C21H23N3O5
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | (S)-[3-(3-Amino-benzyl)-ureido]-phenyl-acetic acid cyclopentyl ester | 2.34 g, 71% yield | C1(CCCC1)OC([C@H](C1=CC=CC=C1)NC(=O)NCC1=CC(=CC=C1)N)=O | C21H25N3O3
